US04036989
A solution of 4-acetyl-2-methylbiphenyl (12.8g, 0.061 mole) in dry ether (340me) was added over 30 minutes to methyl magnesium iodide, (from magnesium, 1.8g, methyl iodide, 5.1ml, and ether 61 ml). The mixture was stirred under reflux for 5 hours, stirred overnight at room temperature and finally decomposed by the dropwise addition of hydrochloric acid (2N; 170ml). The product was isolated in ether washed with aqueous sodium thiosulphate and water, dried, evaporated, and distilled. The product solidified on standing and was recrystallized from light petroleum (b.p. 40°-60° C) to give 4-(1-hydroxy-1-methylethyl)-2-methylbiphenyl, m.p. 60°-64° C. A solution of this (5g) in ethyl acetate (50ml) containing concentrated sulphuric acid (3 drops) was hydrogenated over palladium-charcoal (10%, 0.5g) for 8 hours. The mixture was filtered and the filtrate was concentrated by evaporation. The residue was dissolved in ether (50ml), washed with aqueous sodium hydrogen carbonate, dried, evaporated and distilled to give 4-isopropyl-2-methylbiphenyl, b.p. 93°-94° C/0.3mm.

reactant | 4-acetyl-2-methylbiphenyl | 0.061 mole, 12.8g | C(C)(=O)C1=CC(=C(C=C1)C1=CC=CC=C1)C | C15H14O
reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
reactant | hydrochloric acid | 2N, 170ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 61 ml | CCOCC | C4H10O
product | 4-(1-hydroxy-1-methylethyl)-2-methylbiphenyl | OC(C)(C)C1=CC(=C(C=C1)C1=CC=CC=C1)C | C16H18O
